US08133882B2
287 mg of ethyl[(5-chloro-2-thienyl)sulfonyl]carbamate was dissolved in 5.0 ml of toluene, and 250 mg of 3-amino-7-(cyclohexylamino)-6-fluoro-1-isopropylquinolin-4(1H)-one was added, followed by overnight stirring at 110° C. The reaction mixture was cooled to room temperature and concentrated under a reduced pressure. Then, ethyl acetate was added and the insoluble materials were collected by filtration, thereby obtaining 280 mg of 5-chloro-N-({[7-(cyclohexylamino)-6-fluoro-1-isopropyl-4-oxo-1,4-dihydroquinolin-3-yl]amino}carbonyl)thiophene-2-sulfonamide.

reactant | ethyl[(5-chloro-2-thienyl)sulfonyl]carbamate | 287 mg | C(C)OC(NS(=O)(=O)C=1SC(=CC1)Cl)=O | C7H8ClNO4S2
reactant | 3-amino-7-(cyclohexylamino)-6-fluoro-1-isopropylquinolin-4(1H)-one | 250 mg | NC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C(C)C | C18H24FN3O
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-N-({[7-(cyclohexylamino)-6-fluoro-1-isopropyl-4-oxo-1,4-dihydroquinolin-3-yl]amino}carbonyl)thiophene-2-sulfonamide | 280 mg | ClC1=CC=C(S1)S(=O)(=O)NC(=O)NC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C(C)C | C23H26ClFN4O4S2
